US06891066B2
Methyl 3,4-difluoro-2-(2-fluoro-4-iodoanilino)benzoate (1.00 g), 2.45 mmol) and (Ph3P)4Pd (568 mg, 0.49 mmol) were weighed into a dry flask which was fitted with a condensor and flushed with nitrogen. Dioxane (20 mL) and allyltributyltin (976 mg, 2.95 mmol) were added via syringe and the entire mixture heated at reflux overnight. All solvent was removed under reduced pressure and the residue loaded directly onto a silica gel column (10% EtOAc/PE as eluant). After chromatography, the crude methyl ester was obtained as a pale yellow oil which was dissolved in a mixture of EtOH (25 mL) and 1 M NaOH (25 mL) and stirred overnight at RT. The mixture was then diluted with water (70 mL) and acidified with 1 M HCl (approx. 30 mL), then extracted with EtOAc (3×100 mL). The combined EtOAc fractions were washed with water (100 mL), brine (100 mL), dried (Na2SO4), then the solvent removed under reduced pressure to afford a pale yellow solid which was purified by chromatography on silica gel (50% EtOAc/PE as eluant) to afford 2-(4-allyl-2-fluoroanilino)-3,4-difluorobenzoic acid as pale yellow needles (583 mg, 72%); m.p. (EtOAc/hexane) 199-201° C. 1H NMR [400 MHz, (CD3)2SO] δ 13.68 (v br s, 1 H), 9.25 (br s, 1 H), 7.81 (ddd, J=8.3, 6.1, 2.0 Hz, 1 H), 7.07 (dd, J=12.2, 1.7 Hz, 1 H), 7.06-6.98 (m, 2 H), 6.93 (dd, J=8.2, 1.6 Hz, 1 H), 6.01-5.89 (m, 1 H), 5.13-5.03 (m, 2 H), 3.51-3.40 (m, 2H, obscured by H2O). Anal. calcd. for C16H12F3NO2: C, 62.5; H, 3.9; N, 4.6. Found C, 62.7; H, 4.1; N, 4.5.

reactant | Methyl 3,4-difluoro-2-(2-fluoro-4-iodoanilino)benzoate | 1.00 g | FC=1C(=C(C(=O)OC)C=CC1F)NC1=C(C=C(C=C1)I)F | C14H9F3INO2
reactant | Dioxane | 20 mL | O1CCOCC1 | C4H8O2
reactant | allyltributyltin | 2.95 mmol, 976 mg | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | HCl | 1 M, approx. 30 mL | Cl | ClH
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | NaOH | 1 M, 25 mL | [OH-].[Na+]
solvent | water | 70 mL | O | H2O
catalyst | (Ph3P)4Pd | 0.49 mmol, 568 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-allyl-2-fluoroanilino)-3,4-difluorobenzoic acid | 583 mg, 72% | C(C=C)C1=CC(=C(NC2=C(C(=O)O)C=CC(=C2F)F)C=C1)F | C16H12F3NO2
